US06716861B2
tert-butyl (6Z,10R)-6-amino-10-(3-cyclohexylpropyl)-9-oxo-8-oxa-2-thia-3,7-diazadodec-6-en-12-oate 2,2-dioxide
Method as for preparation 2 using (2R)-2-(2-tert-butoxy-2-oxoethyl)-5-cyclohexylpentanoic acid (preparation 168) (670 mg, 2.25 mmol) and (1Z)-N′-hydroxy-3-[(methylsulfonyl)amino]propanimidamide (preparation 30) (700 mg, 2.50 mmol) as starting materials to afford the title compound as a yellow oil.

reactant | (2R)-2-(2-tert-butoxy-2-oxoethyl)-5-cyclohexylpentanoic acid | 2.25 mmol, 670 mg | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | (1Z)-N′-hydroxy-3-[(methylsulfonyl)amino]propanimidamide | 2.50 mmol, 700 mg | O\N=C(\CCNS(=O)(=O)C)/N | C4H11N3O3S
product | tert-butyl (6Z,10R)-6-amino-10-(3-cyclohexylpropyl)-9-oxo-8-oxa-2-thia-3,7-diazadodec-6-en-12-oate 2,2-dioxide | N\C(\CCNS(C)(=O)=O)=N/OC([C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1)=O | C21H39N3O6S
